US04022833
Condensation of 1-pentene oxide and hexamethylenediamine affords N,N'-(1,6-hexylene)-bis[2-hydroxypentylamine] (I: R= CH3 (CH2)2, R' = H, X= (CH2)6, Z= H).

reactant | 1-pentene oxide | C1C(CCC)O1 | C5H10O
reactant | hexamethylenediamine | NCCCCCCN | C6H16N2
product | N,N'-(1,6-hexylene)-bis[2-hydroxypentylamine] | C(CCCCCNCC(CCC)O)NCC(CCC)O | C16H36N2O2
